US05958942
3-Methyl-2-[5-(amino)pentan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene
To a suspension of 2.50 g (6.2 mmol) of 3-methyl-2-[5-(phthalimido)pentan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene in 50 ml of ethanol was added 928 mg (18.5 mmol) of hydrazinemonohydrate. The mixture was heated for two hours under reflux. After cooling, the resulting precipitates were collected by filtration and washed with ethanol. The filtrate and washing were combined and concentrated to give the residue. Water was added, extracted with methylene chloride, dried over anhydrous magnesium sulfate. The solvent was distilled off to afford 1.197 g of the desired compound (70.6%, a greenish brown solid).

reactant | 3-methyl-2-[5-(phthalimido)pentan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene | 6.2 mmol, 2.50 g | CC=1N=C2N3C1C(=NC3=CC=C2)SCCCCCN2C(C=3C(C2=O)=CC=CC3)=O | C22H20N4O2S
reactant | Water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-Methyl-2-[5-(amino)pentan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene | 1.197 g | CC=1N=C2N3C1C(=NC3=CC=C2)SCCCCCN | C14H18N4S
